US06414149B1
Step D: (R)-1-{4-[4-(3-Chlorobenzylidene)-piperidin-1-yl]-pyrimidin-2-yl}-ethanol
To a solution of (R)-1-{4-[4-(3-chloro-benzylidene)-piperidin-1-yl]-pyrimidin-2-yl}-ethyl butyrate (prepared according to the method of Example 176, Step C, 0.62 g, 1.55 mmol) in methanol (8 mL) was added 1 N aqueous sodium hydroxide (1 mL) then stirred for 4 h at ambient temperature. The mixture was diluted with chloroform and washed once with water, once with saturated aqueous sodium chloride and the organic layer was dried over sodium sulfate and filtered. The filtrate was concentrated to obtain a crude product which was purified by flash chromatography (95:5 dichloromethane:methanol) to give the title compound as a white solid, 0.31 g (61%). 1H NMR (CDCl3, 300 MHz) δ1.51 (d, 3H), 2.46 (m, 2H), 2.56 (m, 2H), 3.07 (m, 2H), 3.77 (m, 2H), 4.35 (d, 1H), 4.69 (q, 1H), 6.36 (s, 1H), 6.40 (d, 1H), 7.07 (m, 1H), 7.12-7.28 (m, 3H), 8.18 (m, 1H); mp: 45-55° C.; MS (CI) 330 (MH+); [α]D +16.8 (c, 1.0, MeOH).

reactant | (R)-1-{4-[4-(3-chloro-benzylidene)-piperidin-1-yl]-pyrimidin-2-yl}-ethyl butyrate | C(CCC)(=O)O[C@H](C)C1=NC=CC(=N1)N1CCC(CC1)=CC1=CC(=CC=C1)Cl | C22H26ClN3O2
reactant | sodium hydroxide | 1 N, 1 mL | [OH-].[Na+]
solvent | methanol | 8 mL | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (R)-1-{4-[4-(3-Chlorobenzylidene)-piperidin-1-yl]-pyrimidin-2-yl}-ethanol | ClC=1C=C(C=C2CCN(CC2)C2=NC(=NC=C2)[C@@H](C)O)C=CC1 | C18H20ClN3O
